US05539091
(a) Preparation of N-octyllactosylamine
The process was carried out in essentially the same manner as in Examples 5 and 6 above, using 21 g of lactose and 12.8 g of octylamine.

reactant | lactose | 21 g | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | octylamine | 12.8 g | C(CCCCCCC)N | C8H19N
product | N-octyllactosylamine | CCCCCCCCNC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O)O)O | C20H39NO10
